US04906628
6-[4-(4-Oxo-1,4-dihydropyridin-1yl)phenyl]-4,5-dihydro-3(2H)-pyridazinone
A stirred mixture of 6-(4-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone hydrochloride (1.5 g), 4H-pyran-4-one (0.7 g), and water (20 ml), was heated under reflux for 41/2 hours. The resultant solid was dissolved in the minimum of hot water and the solution was neutralised with ammonia to give the crude product. Recrystallisation from water gave the title compound, 0.73 g, m.p. 270°-272° C.

reactant | 6-(4-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone hydrochloride | 1.5 g | Cl.NC1=CC=C(C=C1)C=1CCC(NN1)=O
reactant | 4H-pyran-4-one | 0.7 g | O1C=CC(C=C1)=O | C5H4O2
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | 6-[4-(4-Oxo-1,4-dihydropyridin-1yl)phenyl]-4,5-dihydro-3(2H)-pyridazinone | O=C1C=CN(C=C1)C1=CC=C(C=C1)C=1CCC(NN1)=O | C15H13N3O2
